US08487108B2
A solution of (S)-tert-butyl 4-((R)-2-((tert-butyldimethylsilyloxy)methyl)pent-4-enyl)-2,2-dimethyloxazolidine-3-carboxylate (26 g, 63 mmol) in THF (200 mL) was cooled in an ice-bath, followed by dropwise addition of 10 M BH3.SMe2 (6.3 mL). After stirring for 5 hr, 10% NaOH solution (32 mL) followed by 30% H2O2 (32 mL) were added carefully. The reaction mixture was stirred at rt for 16 hr. The reaction mixture was diluted with diethyl ether (500 mL) and the aqueous layer was extracted with diethyl ether (3×250 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated to give the crude product, which was purified by column chromatography to afford (S)-tert-butyl 4-((R)-2-((tert-butyldimethylsilyloxy)methyl)-5-hydroxypentyl)-2,2-dimethyloxazolidine-3-carboxylate (19.6 g, 72%).

reactant | (S)-tert-butyl 4-((R)-2-((tert-butyldimethylsilyloxy)methyl)pent-4-enyl)-2,2-dimethyloxazolidine-3-carboxylate | 63 mmol, 26 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)CC=C | C22H43NO4Si
reactant | SMe2 | 6.3 mL | S(C)C | C2H6S
reactant | NaOH | 32 mL | [OH-].[Na+]
reactant | H2O2 | 32 mL | OO | H2O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
product | (S)-tert-butyl 4-((R)-2-((tert-butyldimethylsilyloxy)methyl)-5-hydroxypentyl)-2,2-dimethyloxazolidine-3-carboxylate | 19.6 g, 72% | [Si](C)(C)(C(C)(C)C)OC[C@@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)CCCO | C22H45NO5Si
